US07943613B2
1 M Solution of lithium aluminum hydride in tetrahydrofuran (7.9 mL, 7.9 mmol) was added to sodium methoxide (21 mg, 0.396 mmol) under nitrogen. The mixture was cooled to 0° C. and a solution of 3-(4-bromophenyl)-prop-2-yn-1-ol (1.67 g, 7.91 mmol) in dry tetrahydrofuran (12 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 3.5 h; dry ethyl acetate (2.4 mL, 15.8 mmol) was added and the whole mixture was stirred at ambient temperature for 30 min. A degassed solution of 1-chloro-4-iodobenzene (1.89 g, 7.91 mmol) in anhydrous tetrahydrofuran (12 mL), anhydrous zinc chloride (0.65 g, 4.77 mmol), tris(dibenzylidene-acetone)dipalladium chloroform complex (0.165 g, 0.16 mmol) and tri-(2-furyl)phosphine (0.184 g, 0.791 mmol) were added; the mixture was degassed and stirred at 65° C. for 22 h under atmosphere of nitrogen. The suspension was cooled down; methanol (3.5 mL) was added and the mixture was stirred for additional 1 h. The mixture was diluted with ether (40 mL) and saturated aqueous solution of ammonium chloride (2 mL), was filtered through a pad of silica gel and the pad was thoroughly washed with ether (80 mL). the filtrate was evaporated in vacuo and the residue was purified by flash column chromatography (silica gel Fluka 60, dichloromethane/ethyl acetate 20:1) affording (E)-3-(4-bromophenyl)-3-(4-chlorophenyl)-prop-2-en-1-ol as yellow oil, which solidified in fridge.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium methoxide | 0.396 mmol, 21 mg | C[O-].[Na+]
reactant | 3-(4-bromophenyl)-prop-2-yn-1-ol | 7.91 mmol, 1.67 g | BrC1=CC=C(C=C1)C#CCO | C9H7BrO
reactant | ethyl acetate | 15.8 mmol, 2.4 mL | C(C)(=O)OCC | C4H8O2
reactant | 1-chloro-4-iodobenzene | 7.91 mmol, 1.89 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | tri-(2-furyl)phosphine | 0.791 mmol, 0.184 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 4.77 mmol, 0.65 g | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 7.9 mmol, 7.9 mL | O1CCCC1 | C4H8O
product | (E)-3-(4-bromophenyl)-3-(4-chlorophenyl)-prop-2-en-1-ol | BrC1=CC=C(C=C1)/C(=C/CO)/C1=CC=C(C=C1)Cl | C15H12BrClO
